US08461328B2
A mixture of ((1S,3R)-3-benzyloxycarbonylamino-cyclopentyl)-carbamic acid tert-butyl ester (635 mg, 1.90 mmol) and 10% Pd on carbon (202 mg, 0.19 mmol) in ethanol (15 mL) was stirred at ambient temperature under an atmosphere of hydrogen for 16 hours. The reaction mixture was filtered through Celite® which was washed with ethanol and the filtrate concentrated under vacuum to afford 390 mg (quant.) of ((1S,3R)-3-amino-cyclopentyl)-carbamic acid tert-butyl ester as a colorless oil. LCMS (Method H, ESI): RT=0.38 min, m+H=200.9; 1H NMR (400 MHz, DMSO) δ: 6.82 (d, 1H), 3.75-3.66 (m, 1H), 3.17 (m, 2H), 1.98 (m, 1H), 1.70 (m, 3H), 1.49 (m, 1H), 1.37 (s, 9H), 1.31 (m, 1H), 1.14 (m, 1H).

reactant | ((1S,3R)-3-benzyloxycarbonylamino-cyclopentyl)-carbamic acid tert-butyl ester | 1.90 mmol, 635 mg | C(C)(C)(C)OC(N[C@@H]1C[C@@H](CC1)NC(=O)OCC1=CC=CC=C1)=O | C18H26N2O4
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 0.19 mmol, 202 mg | [Pd] | Pd
product | ((1S,3R)-3-amino-cyclopentyl)-carbamic acid tert-butyl ester | 390 mg | C(C)(C)(C)OC(N[C@@H]1C[C@@H](CC1)N)=O | C10H20N2O2
